US07179934B2
3-((R)-5-Cyclohexyl-3-methyl-pentyl)-2,2-dimethyl-oxirane
A flask was charged with 11.48 g (51.6 mmol) of crude (3R)-(3,7-dimethyl-oct-6-enyl)-cyclohexane, 100 mL of dichloromethane, and 9.33 g (111 mmol) of sodium bicarbonate. The mixture was cooled in a 0° C. bath. Slowly 11.6 mL (55.2 mmol) 32% peracetic acid was added. The mixture was stirred for 4 hours at 0° C. Then 10% aqueous sodium sulfite was added slowly until bubbling ceased. The layers were separated, and the organic layer was washed twice with 10% aqueous sodium sulfite and dried over magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure. The remaining residue was 10.65 g (87%) of a clear oil: 1H NMR (400 MHz, CDCl3) ppm 0.86 (m, 5 H) 1.00 (d, J=6.59 Hz, 2 H) 1.14 (m, 7 H) 1.25 (s, 3 H) 1.29 (s, 3 H) 1.35 (m, 2 H) 1.50 (m, 3 H) 1.65 (m, 5 H) 2.68 (td, J=6.16, 1.83 Hz, 1 H). MS (APCl) m+1/z=239.

reactant | (3R)-(3,7-dimethyl-oct-6-enyl)-cyclohexane | 51.6 mmol, 11.48 g | C[C@H](CCC1CCCCC1)CCC=C(C)C | C16H30
reactant | sodium bicarbonate | 111 mmol, 9.33 g | C([O-])(O)=O.[Na+]
reactant | peracetic acid | 55.2 mmol, 11.6 mL | C(C)(=O)OO | C2H4O3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-((R)-5-Cyclohexyl-3-methyl-pentyl)-2,2-dimethyl-oxirane | C1(CCCCC1)CC[C@H](CCC1C(O1)(C)C)C | C16H30O
